US04436939
Under a nitrogen atmosphere, 58.3 g of magnesium turnings, 800 ml of tetrahydrofuran and about 0.1 g of iodine were put in a flask. When 2 ml of ethyl bromide was added while stirring the above materials, coloration by iodine disappeared and the temperature of the contents of the flask rose. While tetrahydrofuran was refluxed, a solution of 294 g of p-dichlorobenzene in 2 liters of tetrahydrofuran was added dropwise over the course of about 4 hours. After the addition, the mixture was stirred for 2 hours, and cooled to room temperature. Then, a solution of 271.7 g of prenyl chloride in 800 ml of tetrahydrofuran was added dropwise at 15° C. to 20° C. over about 4 hours. After the addition, the reaction mixture was left to stand overnight at room temperature. Then, 2 liters of a 10% by weight aqueous solution of ammonium chloride was added, and the mixture was separated into an organic layer and an aqueous layer. The aqueous layer was extracted with 300 ml of diethyl ether. The diethyl ether layer was combined with the organic layer previously separated, and washed with water, dried, concentrated and distilled to give 222.3 g (yield 61.6%) of p-chloroprenylbenzene having a boiling point of 64° C. to 65.5° C./0.38 mmHg. The nuclear magnetic resonance spectrum of the product was as follows. (The chemical shifts are expressed in δ (ppm) when hexamethylsiloxane (HMS) is used as a standard.)

reactant | magnesium | 58.3 g | [Mg] | Mg
reactant | ethyl bromide | 2 ml | C(C)Br | C2H5Br
reactant | iodine | II | I2
reactant | p-dichlorobenzene | 294 g | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
reactant | prenyl chloride | 271.7 g | C(C=C(C)C)Cl | C5H9Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 liters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
catalyst | iodine | about 0.1 g | II | I2
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | p-chloroprenylbenzene | 222.3 g, yield 61.6% | ClC1=CC=C(C=C1)CC=C(C)C | C11H13Cl
